US07977327B2
(3S,4S)-3-(tert-Butoxycarbonyl)amino-4-ethylpyrrolidine
A 10% palladium carbon catalyst (50 mg) was added to a solution of (3S,4S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-ethylpyrrolidine (514 mg, 1.48 mmol) in methanol (15 mL). The resultant mixture was stirred at room temperature for 2 hours under an ordinary pressure in a hydrogen atmosphere. After filtration, the filtrate was concentrated under reduced pressure, to thereby yield the title compound as a colorless oily substance (324 mg, quantitative amount).

reactant | (3S,4S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-ethylpyrrolidine | 1.48 mmol, 514 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)CC)NC(=O)OC(C)(C)C | C19H28N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 50 mg | [C].[Pd]
solvent | methanol | 15 mL | CO | CH4O
product | (3S,4S)-3-(tert-Butoxycarbonyl)amino-4-ethylpyrrolidine | C(C)(C)(C)OC(=O)N[C@@H]1CNC[C@@H]1CC | C11H22N2O2
